US09340538B2
Step A: Ethyl 4-(2-bromo-4-fluorophenyl)-6-((2-((2-ethoxy-2-oxoethyl)carbamoyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-2-carboxylic acid (0.8 g, 1.45 mmol) was reacted with ethyl 2-aminoacetate hydrochloride (0.31 g, 2.17 mmol) according to the procedure as described in Example 53 to give the title compound as a yellow solid (0.76 g, 82%). The compound was characterized by the following spectroscopic data:

reactant | 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-2-carboxylic acid | 1.45 mmol, 0.8 g | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1CC(OCC1)C(=O)O)C(=O)OCC | C22H22BrFN4O5S
reactant | ethyl 2-aminoacetate hydrochloride | 2.17 mmol, 0.31 g | Cl.NCC(=O)OCC
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-((2-((2-ethoxy-2-oxoethyl)carbamoyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.76 g, 82% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CN1CC(OCC1)C(NCC(=O)OCC)=O)C=1SC=CN1 | C26H29BrFN5O6S
